US05112824
A suspension of 5-(2-bromoethyl)benzofurazan (245 mg, 1.08 mmol), 5-(2-methylaminoethoxy)benzofurazan hydrobromide (100 mg, 0.36 mmol), sodium bicarbonate (134 mg, 1.6 mmol) and lithium iodide (2 mg) in ethanol (7.0 ml) was heated at reflux temperature overnight. The reaction mixture was concentrated under reduced pressure and saturated sodium bicarbonate solution added. Extraction with methylene chloride, drying and solvent evaporation gave an oil. Flash chromatography (silica gel, methanol-chloroform, 1%), salt formation and trituration with hexane gave 1-(benzofurazan-5-yl)-2-{N-[2-(benzofurazan-5-oxy)ethyl]-N-methylamino}ethane, hydrochloride (31 mg, 23%); mp 214°-216° C.

reactant | 5-(2-bromoethyl)benzofurazan | 1.08 mmol, 245 mg | BrCCC=1C=CC=2C(=NON2)C1 | C8H7BrN2O
reactant | 5-(2-methylaminoethoxy)benzofurazan hydrobromide | 0.36 mmol, 100 mg | Br.CNCCOC=1C=CC=2C(=NON2)C1
reactant | sodium bicarbonate | 1.6 mmol, 134 mg | C([O-])(O)=O.[Na+]
reactant | lithium iodide | 2 mg | [I-].[Li+]
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | ethanol | 7.0 ml | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | 1-(benzofurazan-5-yl)-2-{N-[2-(benzofurazan-5-oxy)ethyl]-N-methylamino}ethane, hydrochloride | 31 mg, 23% | Cl.N1=C2C(=NO1)C=C(C=C2)CCN(C)CCOC=2C=CC=1C(=NON1)C2 | InChI=1S/C17H17N5O3.ClH/c1-22(7-6-12-2-4-14-16(10-12)20-24-18-14)8-9-23-13-3-5-15-17(11-13)21-25-19-15;/h2-5,10-11H,6-9H2,1H3;1H
